US07446222B2
t-Butyl 3-bromo-5-cyanobenzoate
A mixture of t-butyl 3-bromo-5-iodobenzoate (1.91 g, 5 mmol), zinc cyanide (585 mg, 5 mmol), and tetrakis(triphenylphosphine)palladium(0) (300 mg, 5 mol %) in dimethylformamide (20 ml) was heated at 80° C. for 2 hours. The solvent was evaporated. The residue was dissolved in ethyl acetate (20 ml) and washed with water and brine. The organic phase was dried and evaporated. Chromatography with ethyl acetate/hexane (1:4) gave the title compound as a colourless oil (1.02 g, 73%).

reactant | t-butyl 3-bromo-5-iodobenzoate | 5 mmol, 1.91 g | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)I | C11H12BrIO2
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 5 mmol, 585 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 300 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | t-Butyl 3-bromo-5-cyanobenzoate | 1.02 g, 73% | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)C#N | C12H12BrNO2
